Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Niacin
 
Attending: ___.
 
Chief Complaint:
hypotension 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ year old female with chief complaint of unresponsiveness 
at assisted living facility. Per report, she was arousable to 
shaking. At the time, she was found to have coarse breath 
sounds, coughing concerning for aspiration. She was sent to ED 
and while in transport she was hypoxic, placed on NRB and sat 
inproved to mid 80's.  
.  
In ED, T 98.2; HR 86; BP 159/61; RR18; 64% RA which improved to 
80's on NRB. CXR revealed RLL infiltrate and she was started on 
Levaquin and clindamycin. Her BP dropped to 80's and given 4L 
fluid with persistent hypotension in ___ and was started on 
levophed, lactate 6.6. A L IJ was placed for access.  
.  
By transfer to ICU, she was off pressors. She is oriented to 
self and hospital, but not able to give significantly more 
history of why she is in hospital. She states that her breathing 
is at baseline and denies SOB. She denies CP, fever, chills, abd 
pain, diarrhea. She did have emesis but denies vomiting. Per 
son, went out for ___ dinner, ate a big piece of steak tips 
and choked and vomited after eating. Son stayed with her at 
assisted living but she continue to cough. This AM, noted to be 
pale and tachypneic. Did get flu shot 

 
Past Medical History:
Past Medical History:
Alzheimer dementia
DMI
HTN
h/o duodenal ulcer
PVDZ
.

 
Social History:
___
Family History:
NC
.

 
Physical Exam:
PE: T100.2 ax 108/47 106 33 88% on NRB O2 Sats  
Gen: alert, oriented to person and hospital (per son, she is at 
baseline); yellow emesis on lips; pursed lip  
HEENT: with teeth, emesis  
NECK: Supple, No LAD, No JVD  
CV: RR, NL rate. NL S1, S2. No murmurs, rubs ___  
LUNGS: crackles bilaterally  
ABD: Soft, NT, ND. hypoactive BS. No HSM  
EXT: No edema. 2+ DP pulses ___  
SKIN: ecchymosis on R back  
NEURO: CN ___ grossly intact. Preserved sensation throughout. 
___ strength throughout. ___ reflexes, equal ___. Normal 
coordination. Gait assessment deferred  

 
Pertinent Results:
CXR: Pulmonary edema, superimposed infection cannot be excluded. 
Follow up after diuresis.  
.  
EKG: sinus tachy, nl axis, nl intervals, RBBB, no ST or TW 
changes.  
.  
___ Echo: EF 65%, The left atrium is elongated. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Transmitral 
Doppler and tissue velocity imaging are consistent with Grade I 
(mild) LV diastolic dysfunction. There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The ascending aorta is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened. There is mild aortic valve 
stenosis (area 1.2-1.9cm2). No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. The left ventricular inflow pattern 
suggests impaired relaxation. The tricuspid valve leaflets are 
mildly thickened. The pulmonary artery systolic pressure could 
not be determined. There is a very small pericardial effusion 
(mostly around right atrium. No evidence for tamponade.  

 
Brief Hospital Course:
Patients respiratory status continued to decline. She was 
DNR/DNI on admission and was made CMO. She expired on ___. 

Brief hospital Course: 

1. Hypoxia: She came in with likely aspiration Pna vs 
pneumonitis given history of choking, and the team also 
considered and trated for CAP. CHF is a possibility given 
congestion seen on CXR, although overall, she did not seem total 
body overloaded based on CVP and exam, Given moderate AS (valve 
area 1.2-1.9), she is at risk for poor forward flow. DFA 
negative for influenza. She was continued on a non rebreather 
and desaturated on that and was switched to noninvasive 
ventilation wiht CPAP. She was intially given clindamycin and 
levaquin as well as Vancomycin in the ED. On the FICU she was on 
zosyn and flagyl. She continued to desaturate on CPAP and was 
made CMO
  
2. Septic shock: Patient was briefly on levophed for blood 
pressure control, but this was weaned off quickly. Her cultures 
remained negative.

3. Bandemia: may be from pna, but given hypoactive bowel sounds 
and ? diarrhea per family, also concern for c. diff. She was 
emperically treated with flagyl  
  
4. HTN: hypotensive intially, and antihypertensives were 
stopped.
 
Medications on Admission:
lipitor 80 daily  
plavix 75 daily  
aggrenox ___ BID  
exelon 6 mg BID  
namenda 5 mg BID  
caltrate 600 mg BID  
Fosamax 70 weekly  
iron  
zestril 10 daily  
MVI  
remeron 30 mg QHS  
insulin NPH 13 U QAM 13U QPM  
insulin regular 4U BID  

 
Discharge Medications:
expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Aspiration pneumonia

 
Discharge Condition:
Expired

 
Discharge Instructions:
Patient expired. 
 
Followup Instructions:
___